US04012367
N-benzyloxycarbonyl-L-tryptophanyl-L-methionyl-L-aspartyl-DL-norvaline amide is dissolved in 10 parts glacial acetic acid containing 2 parts methylethyl sulfide. Then, 10 parts of 6 M hydrobromic acid in acetic acid is added and the solution is allowed to stand for one hour at room temperature. The solvents are removed under vacuum below 40° C. and the residue shaken with ether to afford L-tryptophanyl-L-methionyl-L-aspartyl-DL-norvaline amide hydrobromide. This compound is represented by the following formula.

reactant | N-benzyloxycarbonyl-L-tryptophanyl-L-methionyl-L-aspartyl-DL-norvaline amide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)NC(CCC)C(=O)N | C33H42N6O8S
reactant | hydrobromic acid | 6 M | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylethyl sulfide | CSCC | C3H8S
product | L-tryptophanyl-L-methionyl-L-aspartyl-DL-norvaline amide hydrobromide | Br.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(O)=O)C(=O)NC(CCC)C(=O)N | InChI=1S/C25H36N6O6S.BrH/c1-3-6-18(22(27)34)29-25(37)20(12-21(32)33)31-24(36)19(9-10-38-2)30-23(35)16(26)11-14-13-28-17-8-5-4-7-15(14)17;/h4-5,7-8,13,16,18-20,28H,3,6,9-12,26H2,1-2H3,(H2,27,34)(H,29,37)(H,30,35)(H,31,36)(H,32,33);1H/t16-,18?,19-,20-;/m0./s1
